US08207334B2
2-Amino-5-bromo-pyridine (664 mg, 3.85 mmol), dimethyl diacetoxyfumarate (1.00 g, 3.84 mmol) and glacial acetic acid (10 drops) in dry methanol (10 mL) were combined and heated to reflux. After 48 h the reaction was cooled to room temperature and concentrated in vacuo. Ethyl acetate (2 mL) was added to the residue which was sonicated for 2 min and the resulting precipitate collected by filtration and washed with cold ethyl acetate (1 mL) and dried on the pump to afford 7-bromo-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxylic acid methyl ester as a yellow solid (24 mg, 2%): 1H NMR (300 MHz, CDCl3) δ 4.19 (3H, s, OCH3), 7.53 (2H, d, J=1.4 Hz, H8 and H9), 9.00 (1H, d, J=1.4 Hz, H6), 10.53 (1H, br s, OH).

reactant | 2-Amino-5-bromo-pyridine | 3.85 mmol, 664 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | dimethyl diacetoxyfumarate | 3.84 mmol, 1.00 g | C(C)(=O)O\C(=C(/C(=O)OC)\OC(C)=O)\C(=O)OC | C10H12O8
catalyst | acetic acid | 10 drops | C(C)(=O)O | C2H4O2
solvent | methanol | 10 mL | CO | CH4O
product | 7-bromo-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxylic acid methyl ester | 24 mg, 2% | COC(=O)C=1N=C2N(C(C1O)=O)C=C(C=C2)Br | C10H7BrN2O4
